US07897762B2
Diphosgene (5 mL, 41 mmol), 3-((4-(isopropylamino)-2-(methylthio)pyrimidin-5-yl)methylamino)-5-nitrobenzonitrile (2.2 g, 6.15 mmol) and Et3N (2.5 mL) were combined by the procedure of Example A4 step 3 to give 3-(1-isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)-5-nitrobenzonitrile (1.2 g, 51% yield), which was used in the next step without further purification.

reactant | Diphosgene | 41 mmol, 5 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 3-((4-(isopropylamino)-2-(methylthio)pyrimidin-5-yl)methylamino)-5-nitrobenzonitrile | 6.15 mmol, 2.2 g | C(C)(C)NC1=NC(=NC=C1CNC=1C=C(C#N)C=C(C1)[N+](=O)[O-])SC | C16H18N6O2S
solvent | Et3N | 2.5 mL | CCN(CC)CC | C6H15N
product | 3-(1-isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)-5-nitrobenzonitrile | 1.2 g, 51% yield | C(C)(C)N1C(N(CC=2C1=NC(=NC2)SC)C=2C=C(C#N)C=C(C2)[N+](=O)[O-])=O | C17H16N6O3S
